US04511573
3-(7-Carboxyhept-6-enyl)-2-(3-pyridyl)-1-methylindole (100 mg) is dissolved in 10 ml of absolute ethanol with a catalytic amount of 10% palladium of charcoal and hydrogenated at 1 atmosphere pressure. After 1 mole of hydrogen is consumed, the catalyst is removed by filtration and washed with a few milliliters of ethanol. The combined filtrates are concentrated in vacuo to yield 3-(7-carboxyheptyl)-1-methyl-2-(3-pyridyl)indole.

reactant | 3-(7-Carboxyhept-6-enyl)-2-(3-pyridyl)-1-methylindole | 100 mg | C(=O)(O)C=CCCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C22H24N2O2
reactant | hydrogen | 1 mole | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | palladium | [Pd] | Pd
solvent | charcoal | C | CH4
product | 3-(7-carboxyheptyl)-1-methyl-2-(3-pyridyl)indole | C(=O)(O)CCCCCCCC1=C(N(C2=CC=CC=C12)C)C=1C=NC=CC1 | C22H26N2O2
